US09278968B2
A mixture of 317 mg of tert-butyl 4-cyano-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate, 307 mg of trimethylsilyl azide, 67 mg of dibutyltin oxide, and 10 ml of toluene was stirred for 8 hours under heating to reflux. The reaction mixture was left to be cooled to room temperature and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 168 mg of tert-butyl 2,2,4-trimethyl-4-(2H-tetrazol-5-yl)-1,3-oxazolidine-3-carboxylate.

reactant | tert-butyl 4-cyano-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate | 317 mg | C(#N)C1(N(C(OC1)(C)C)C(=O)OC(C)(C)C)C | C12H20N2O3
reactant | trimethylsilyl azide | 307 mg | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | dibutyltin oxide | 67 mg | C(CCC)[Sn](CCCC)=O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2,2,4-trimethyl-4-(2H-tetrazol-5-yl)-1,3-oxazolidine-3-carboxylate | 168 mg | CC1(OCC(N1C(=O)OC(C)(C)C)(C=1N=NNN1)C)C | C12H21N5O3
